US07767651B2
5) Synthesis of 3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-[5-(4-ethylphenyl)methyl-2-(2-trityloxyethyl)thiophen-3-yl]-tetrahydropyran-2-ol
Under a nitrogen stream, to a solution of 3-bromo-5-((4-ethylphenyl)methyl)-2-(2-trityloxyethyl)thiophene (1.45 g, 2.55 mmol) in anhydrous THF (40 ml), a hexane solution of n-butyllithium (1.6 M, 1.76 ml, 2.81 mmol) was added dropwise at −78° C. and the mixture was stirred for 15 minutes. To this solution was added a solution of 3,4,5-trisbenzyloxy-6-(benzyloxymethyl)tetrahydropyran-2-one (1.50 g, 2.81 mmol) in anhydrous THF (10 ml) dropwise at −78° C. and the resulting solution was stirred at the same temperature for 10 minutes. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then evaporated under reduced pressure to remove the solvent. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:20)) to give the titled compound (1.70 g, 65%).

reactant | 3-bromo-5-((4-ethylphenyl)methyl)-2-(2-trityloxyethyl)thiophene | 2.55 mmol, 1.45 g | BrC1=C(SC(=C1)CC1=CC=C(C=C1)CC)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H31BrOS
reactant | n-butyllithium | 2.81 mmol, 1.6 M, 1.76 ml | C(CCC)[Li]
reactant | 3,4,5-trisbenzyloxy-6-(benzyloxymethyl)tetrahydropyran-2-one | 2.81 mmol, 1.50 g | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-[5-(4-ethylphenyl)methyl-2-(2-trityloxyethyl)thiophen-3-yl]-tetrahydropyran-2-ol | 1.70 g, 65% | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=C(SC(=C1)CC1=CC=C(C=C1)CC)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H66O7S
